US08975264B2
Step 1: Preparation of 3-(4-methoxyphenyl)-7-(3-(trifluoromethyl)phenyl)-2-methylpyrazolo[1,5-a]pyrimidin-5(4H)-one (Chemical Formula 58)
3-Methyl-4-(4-methoxyphenyl)-1H-pyrazol-5-amine (200 mg) and ethyl 3-(3-(trifluoromethyl)phenyl)-3-oxopropanoate (307 mg) are stirred overnight in a pyridine (10 mL) solvent at 95° C. After cooling to room temperature, the reaction solvent is removed by distillation under reduced pressure. The remainder is extracted with ethyl acetate and water. The extracted organic layer is washed with brine and dehydrated with anhydrous MgSO4. The dehydrated organic layer is distilled under reduced pressure and purified by column chromatography to yield 270 mg of the target compound.

reactant | 3-Methyl-4-(4-methoxyphenyl)-1H-pyrazol-5-amine | 200 mg | CC1=NNC(=C1C1=CC=C(C=C1)OC)N | C11H13N3O
reactant | ethyl 3-(3-(trifluoromethyl)phenyl)-3-oxopropanoate | 307 mg | FC(C=1C=C(C=CC1)C(CC(=O)OCC)=O)(F)F | C12H11F3O3
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 3-(4-methoxyphenyl)-7-(3-(trifluoromethyl)phenyl)-2-methylpyrazolo[1,5-a]pyrimidin-5(4H)-one | 270 mg | COC1=CC=C(C=C1)C=1C(=NN2C1NC(C=C2C2=CC(=CC=C2)C(F)(F)F)=O)C | C21H16F3N3O2
